US05378689
10(a) (2R, 4S, 5S)-5-[N-(t-Butoxycarbonyl)-3-(4-thiazolyl)-L-alanyl]amino-6-cyclohexyl-N-hexyl-4-hydroxy-2-methylhexanamide
A mixture of 412 mg (0.96 mmole) of (2R, 4S, 5S)-5-(t-butoxycarbonyl)amino-6-cyclohexyl-N-hexyl-4-hydroxy-2-methylhexanamide (prepared as described in Preparation 7) and 8.0 ml of a 4N solution of hydrogen chloride in dioxane was stirred at room temperature for 30 minutes. At the end of this time, the reaction mixture was freed from the solvent by distillation under reduced pressure, and the residue was mixed with benzene. The solvent was then removed by distillaticn under reduced pressure. This operation was repeated three times in total, and the final residue was dried in vacuo for 8 hours. The dried material was then suspended in 50 ml of anhydrous tetrahydrofuran, and 289 mg (1.06 mmole) of N-(t-butoxycarbonyl)-3-(4-thiazolyl)-L-alanine were added to the resulting suspension. 0.17 ml (1.06 mmole) of 95% diethyl cyanophosphonate and 0.6 ml (4.3 mmole) of triethylamine were then added, in that order, whilst ice-cooling and under an atmosphere of nitrogen, to the resulting mixture, and the mixture was stirred for 15 hours. At the end of this time, the reaction mixture was concentrated by distillation under reduced pressure, after which the residue was mixed with water and the crystals which deposited were collected by filtration. The crystals were then dissolved in methylene chloride and dried over anhydrous magnesium sulfate, after which the solvent was removed by distillation under reduced pressure. The resulting residue was triturated with diisopropyl ether to afford 465 mg of the title compound as a white powder, melting at 156°-158° C.

reactant | (2R, 4S, 5S)-5-(t-butoxycarbonyl)amino-6-cyclohexyl-N-hexyl-4-hydroxy-2-methylhexanamide | 0.96 mmole, 412 mg | C(C)(C)(C)OC(=O)N[C@H]([C@H](C[C@H](C(=O)NCCCCCC)C)O)CC1CCCCC1 | C24H46N2O4
reactant | hydrogen chloride | Cl | ClH
reactant | N-(t-butoxycarbonyl)-3-(4-thiazolyl)-L-alanine | 1.06 mmole, 289 mg | C(C)(C)(C)OC(=O)N[C@@H](CC=1N=CSC1)C(=O)O | C11H16N2O4S
reactant | diethyl cyanophosphonate | 1.06 mmole, 0.17 ml | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | triethylamine | 4.3 mmole, 0.6 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (2R, 4S, 5S)-5-[N-(t-Butoxycarbonyl)-3-(4-thiazolyl)-L-alanyl]amino-6-cyclohexyl-N-hexyl-4-hydroxy-2-methylhexanamide | 465 mg | C(C)(C)(C)OC(=O)N[C@@H](CC=1N=CSC1)C(=O)N[C@H]([C@H](C[C@H](C(=O)NCCCCCC)C)O)CC1CCCCC1 | C30H52N4O5S
